US07858640B2
2-(4-ethanesulfonylbenzyl)-3-oxopentanoic Acid Methyl Ester
The title compound was prepared by the method of Preparation 34a using 1-bromomethyl-4-ethanesulfonylbenzene and 3-oxopentanoic acid methyl ester.

reactant | 1-bromomethyl-4-ethanesulfonylbenzene | BrCC1=CC=C(C=C1)S(=O)(=O)CC | C9H11BrO2S
reactant | 3-oxopentanoic acid methyl ester | COC(CC(CC)=O)=O | C6H10O3
product | 2-(4-ethanesulfonylbenzyl)-3-oxopentanoic Acid Methyl Ester | COC(C(C(CC)=O)CC1=CC=C(C=C1)S(=O)(=O)CC)=O | C15H20O5S
